* C:\users\zwouklebleu\Documents\Prg\UdS\S1\APP6\app6 I.asc
V2 V12 0 12
V3 0 V-12 12
R2 test 0 20k
C1 TP1 test 680n
R5 N002 0 1k
R4 N002 V12 37k
R3 N001 V12 2k
C2 TP3 TP2 10n
R6 N006 TP3 15k
R7 TP3 N007 10k
D1 0 N006 1N4148
D2 N007 0 1N4148
R9 N003 0 1k
R8 V12 N003 2k
D3 TP4 N004 1N4148
R10 TP5 N004 1.3k
C3 TP5 0 1µ
R11 TP5 NC_01 200
R1 N005 TP1 40
XU1 TP1 N002 V12 V-12 TP2 ADA4000
XU2 TP3 N003 V12 V-12 TP4 ADA4000
L1 N005 0 20m
.model D D
.lib C:\users\zwouklebleu\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5u 0 0.1u startup
.ic V(test)=12
.lib ADI.lib
.backanno
.end
